US05654316
3-(1,3-Benzodioxol-5-yl)glutaric anhydride
3-(1,3-benzodioxol-5-yl)glutaric acid (3.2 g) was treated with acetyl chloride (15 mL) and the resulting mixture heated at reflux for 5 hours. The cooled reaction mixture was then azeotroped with toluene (2×100 mL) and concentrated under reduced pressure. The residue was slurried with diethyl ether and filtered to afford the title compound (2.91 g).

reactant | 3-(1,3-benzodioxol-5-yl)glutaric acid | 3.2 g | O1COC2=C1C=CC(=C2)C(CC(=O)O)CC(=O)O | C12H12O6
reactant | acetyl chloride | 15 mL | C(C)(=O)Cl | C2H3ClO
product | 3-(1,3-Benzodioxol-5-yl)glutaric anhydride | 2.91 g | O1COC2=C1C=CC(=C2)C2CC(=O)OC(C2)=O | C12H10O5
